US07402589B2
Preparation of 3-(2-chlorophenyl)-1-{-2-[(1S)-2-hydroxy-1,2-dimethyl-propylamino]-pyrimidin-4-yl}-1-(4-methoxy-phenyl)-urea (3):
To a solution of (3S)-3-[4-(4-methoxy-phenylamino)pyrimidin-2-ylamino]-2-methyl-butan-2-ol, 2, (129 mg, 0.427 mmol) in dichloroethane (3 mL) is added 2-chlorophenyl isocyanate (57 μL, 0.469 mmol) dropwise via syringe. The reaction is stirred at room temperature for 2 hours. Additional 2-chloroisocyanate (57 μL, 0.469 mmol) is added and the reaction mixture stirred at room temperature for 16 hours after which the reaction mixture is diluted with CH2Cl2 (30 mL), and washed with saturated aqueous sodium bicarbonate solution (20 mL). The aqueous layer is extracted with CH2Cl2 (20 mL) and the combined organic layers washed with water and brine and dried over sodium sulfate, filtered and concentrated in vacuo to afford a crude residue which is purified over silica (5% to 20% Et2O/CH2Cl2 to 10% MeOH/CH2Cl2) to afford the desired product as a white solid. 1H NMR (300 MHz, CDCl3) δ 13.04 (br s, 1H), 8.41 (d, J=8.0 Hz, 1H), 7.92 (d, J=6.0 Hz, 1H), 7.37-7.16 (m, 4H), 7.17 (d, J=8.9 Hz, 2H), 7.02 (d, J=8.9 Hz, 2H), 5.56 (m, 2H), 4.05 (m, 1H), 3.85 (s, 3H), 1.30 (s, 3H), 1.25 (d, J=6.9 Hz, 3H), 1.23 (s, 3H); MS (ESI) m/z 456 (M+1).

reactant | (3S)-3-[4-(4-methoxy-phenylamino)pyrimidin-2-ylamino]-2-methyl-butan-2-ol | COC1=CC=C(C=C1)NC1=NC(=NC=C1)N[C@H](C(C)(O)C)C | C16H22N4O2
reactant | 2-chlorophenyl isocyanate | 0.469 mmol, 57 μL | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-chlorophenyl)-1-{-2-[(1S)-2-hydroxy-1,2-dimethyl-propylamino]-pyrimidin-4-yl}-1-(4-methoxy-phenyl)-urea | ClC1=C(C=CC=C1)NC(N(C1=CC=C(C=C1)OC)C1=NC(=NC=C1)N[C@H](C(C)(C)O)C)=O | C23H26ClN5O3
